US07326732B2
(iv) 5-(3-Chloro-phenyl)-furan-2-carboxylic acid (65)
5-Bromo-2-furoic acid (1 g, 5.8 mmol) was coupled to 3-chloro-phenylboronic acid (683 g, 4.4 mmol) acid using Method F to give the title compound.

reactant | 5-Bromo-2-furoic acid | 5.8 mmol, 1 g | BrC1=CC=C(O1)C(=O)O | C5H3BrO3
reactant | 3-chloro-phenylboronic acid | 4.4 mmol, 683 g | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
product | 5-(3-Chloro-phenyl)-furan-2-carboxylic acid | ClC=1C=C(C=CC1)C1=CC=C(O1)C(=O)O | C11H7ClO3
